US07750003B2
Phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate
A solution of 5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-amine (1 g, 2.71 mmol), sodium hydrogen carbonate (342 mg), and phenyl chloroformate (0.511 mL) in dioxane was stirred at RT for 2 hours then concentrated in vacuo. The residue was partitioned between DCM and water and the organic layer dried over sodium sulphate and evaporated to give a foam. The foam was triturated with a mixture of hexane and diethyl ether to give the desired material as a white solid (1.1 g).

reactant | 5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-amine | 2.71 mmol, 1 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C1=CN=C(S1)N | C14H19N5O3S2
reactant | sodium hydrogen carbonate | 342 mg | C(O)([O-])=O.[Na+]
reactant | phenyl chloroformate | 0.511 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate | 1.1 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C1=CN=C(S1)NC(OC1=CC=CC=C1)=O | C21H23N5O5S2
